US04945106
The (2'-diphenylmethoxyethyl)-oxyamine hydrochloride is prepared from 1-chloro-2-(diphenylmethoxy)-ethane in an analogous fashion to that described in Example 10 for p-fluorobenzyloxyamine hydrochloride.

reactant | 1-chloro-2-(diphenylmethoxy)-ethane | ClCCOC(C1=CC=CC=C1)C1=CC=CC=C1 | C15H15ClO
reactant | p-fluorobenzyloxyamine hydrochloride | Cl.FC1=CC=C(CON)C=C1
product | (2'-diphenylmethoxyethyl)-oxyamine hydrochloride | Cl.C1(=CC=CC=C1)C(OCCON)C1=CC=CC=C1 | InChI=1S/C15H17NO2.ClH/c16-18-12-11-17-15(13-7-3-1-4-8-13)14-9-5-2-6-10-14;/h1-10,15H,11-12,16H2;1H
